US08445679B2
7-(4,4,5,5-Tetramethyl-(1,3,2)dioxaborolan-2-yl)-1H-indole-2-carboxylic acid ethyl ester
A mixture of ethyl 1H-indole-2-carboxylate (1.89 g), 5,5′-di-tert-butyl-2,2′-bipyridine (0.081 g), and (Ir(OMe)(COD))2 (0.152 g) in hexanes (30 mL) was treated with 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.66 g) via a syringe. The reaction mixture was degassed via vacuum/nitrogen cycle three times. The reaction mixture was heated at 62° C. for 12 hours. After this time, the solvent was removed and the residue was purified by flash chromatography on silica gel eluting with 1:9 ethyl acetate/hexane to give the title compound. 1H NMR (500 MHz, DMSO-d6): 9.75 (s, 1H), 7.87 (d, J=7.93 Hz, 1H), 7.64-7.65 (m, 1H), 7.24 (s, 1H), 7.16-7.17 (m, 1H), 4.36 (q, J=7.02 Hz, 2H), 1.38 (s, 12H), 1.35 (q, J=7.02 Hz, 3H).

reactant | ethyl 1H-indole-2-carboxylate | 1.89 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | 5,5′-di-tert-butyl-2,2′-bipyridine | 0.081 g | C(C)(C)(C)C=1C=CC(=NC1)C1=NC=C(C=C1)C(C)(C)C | C18H24N2
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.66 g | CC1(OBOC1(C)C)C | C6H13BO2
product | 7-(4,4,5,5-Tetramethyl-(1,3,2)dioxaborolan-2-yl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C17H22BNO4
